US04085210
A solution of 5-(4-benzylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (1.00 g) in isopropanol was added to 10 % palladium on charcoal (265 mg) pretreated under hydrogen in hydrochloric acid, and the resulting mixture was stirred under hydrogen at room temperature for 12 hours. After elimination of the catalyst by filtration, the filtrate was evaporated. The residue was neutralized with 10 % aqueous sodium hydroxide solution and extracted with chloroform. The chloroform extract was washed with water, dried and evaporated to afford 5-(morpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene as oily material. M.P., 221° - 224° C (oxalate).

reactant | 5-(4-benzylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1.00 g | C(C1=CC=CC=C1)N1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C27H27NO
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | palladium on charcoal | 265 mg | [Pd] | Pd
solvent | hydrochloric acid | Cl | ClH
product | 5-(morpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene | N1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C20H21NO
